US07652022B2
Stage 87.3: (2-Methoxy-4-nitro-phenyl)-piperidin-1-yl-methanone
To an ice-cooled suspension of 2-methoxy-4-nitro-benzoic acid (5.915 g, 30 mmol) in acetonitrile (50 ml) and CH2Cl2 (40 ml) under N2-atmosphere, TPTU (8.912 g, 30 mmol) and NEt3 (8.36 ml, 60 mmol) is added. After stirring for 40 min, piperidine (3.26 ml, 33 mmol) is added and the reaction mixture is slowly warmed up to rt. After 16 h, AcOEt (0.5 L), water (0.4 L) and saturated NaHCO3 solution (0.2 L) is added, the aqueous phase separated off and extracted 3× with AcOEt. The organic layers are washed with 10% citric acid solution, water and brine, dried (Na2SO4) and concentrated. Crystallization from AcOEt/hexane yields the title compound: m.p.: 104° C.; 1H-NMR (DMSO-d6): 7.88 (dd, 1H), 7.84 (d, 1H), 7.47 (d, 1H), 3.93 (s, H3C), 3.7-3.5 (m, 2H), 3.07 (m, 2H), 1.64-1.5 (m, 4H), 1.42 (m, 2H).

reactant | 2-methoxy-4-nitro-benzoic acid | 30 mmol, 5.915 g | COC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C8H7NO5
reactant | TPTU | 30 mmol, 8.912 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
reactant | NEt3 | 60 mmol, 8.36 ml | CCN(CC)CC | C6H15N
reactant | piperidine | 33 mmol, 3.26 ml | N1CCCCC1 | C5H11N
reactant | NaHCO3 | 0.2 L | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 0.4 L | O | H2O
solvent | AcOEt | 0.5 L | CCOC(=O)C | C4H8O2
product | (2-Methoxy-4-nitro-phenyl)-piperidin-1-yl-methanone | COC1=C(C=CC(=C1)[N+](=O)[O-])C(=O)N1CCCCC1 | C13H16N2O4
